US08053165B2
Synthesis Via Route 2 of (2-hydroxymethyl-2-adamantyl)-methyl methacrylate
A mixture of 100 g of 2,2-adamantane dimethanol, 48.2 g of methacrylic acid, 20 g of toluene, 25 g of acidic ion-exchange resin Amberlist-15, and 0.1 g of 2,2′-methylenebis(6-t-butyl-p-cresol) was heated at 120° C. for 6 hours while the water being formed was azeotroped off. After the reaction mixture resumed room temperature, it was filtered through Celite. The filtrate was concentrated in vacuum. 300 g of hexane was added to the concentrate for recrystallization. The crystals were recovered and dried in vacuum, obtaining 45.0 g (yield 33%) of the target compound. The spectral data of this compound were identical with those of the product in Synthesis Example 1-2.

reactant | 2,2-adamantane dimethanol | 100 g | C12C(C3CC(CC(C1)C3)C2)(CO)CO | C12H20O2
reactant | methacrylic acid | 48.2 g | C(C(=C)C)(=O)O | C4H6O2
reactant | toluene | 20 g | C1(=CC=CC=C1)C | C7H8
catalyst | 2,2′-methylenebis(6-t-butyl-p-cresol) | 0.1 g | C(C1=CC(=CC(=C1O)C(C)(C)C)C)C1=CC(=CC(=C1O)C(C)(C)C)C | C23H32O2
solvent | water | O | H2O
product | (2-hydroxymethyl-2-adamantyl)-methyl methacrylate | 45.0 g, yield 33% | C(C(=C)C)(=O)OCC1(C2CC3CC(CC1C3)C2)CO | C16H24O3
